US06303790B1
1.0 g (4.05 mMol) 6-Chloro-4-o-tolyl-nicotinamide in 9.0 ml 1-methyl-piperazine was heated to 100° C. for 2 hours. The excess N-methyl-piperazine was removed under high vacuum and the residue was filtered on silica gel (eluent: dichloromethane) to yield 1.2 g (95%) 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinamide as a light yellow crystalline foam.

reactant | 6-Chloro-4-o-tolyl-nicotinamide | 4.05 mMol, 1.0 g | ClC1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C13H11ClN2O
reactant | 1-methyl-piperazine | 9.0 ml | CN1CCNCC1 | C5H12N2
product | 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinamide | 1.2 g, 95% | CN1CCN(CC1)C1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C18H22N4O
